* E:\baxeltr\SensorTech\Simulation\bv_hall_rpm_2.asc
* Generated by LTspice 24.1.9 for Windows.
V1 5V 0 5v
B1 N001 0 V=(0.085*cos(2*pi*(10+500*time)*time))
X§U3 N001 N003 5V 0 N002 ADA4891-1
R5 N002 N003 39k
R6 0 N003 1k
C3 N001 0 1nF
C4 N007 0 1pF
R7 N002 N007 10
X§U4 N002 N005 5V 0 N004 ADA4891-1
Rx 5V N005 56.6k
Ry N005 0 10k
Rh N004 N005 200k
R8 N004 N008 100
C5 N008 0 1nF
R9 N004 N006 10k
R10 N006 0 10k
X§U5 N006 Output 5V 0 Output ADA4891-1
.tran 0 4.5 0.1m
.lib ADA4891-1.lib
.backanno
.end
